US07858796B2
(162) 5-phenyl-3-{1-[(3-{[2-(trifluoromethyl)phenyl]oxy}propyl)sulfonyl]-4-piperidinyl}-1H-indole-7-carboxamide
Following the general procedure of example 159, 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide (40.0 mg, 0.087 mmol), 2-(trifluoromethyl)phenol (162 mg, 0.87 mmol), K2CO3 (35.0 mg, 0.35 mmol) and sodium iodide (0.5 mg) were reacted to give the title compound (22.9 mg, 50%).

reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 0.087 mmol, 40.0 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C23H26ClN3O3S
reactant | 2-(trifluoromethyl)phenol | 0.87 mmol, 162 mg | FC(C1=C(C=CC=C1)O)(F)F | C7H5F3O
reactant | K2CO3 | 0.35 mmol, 35.0 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | sodium iodide | 0.5 mg | [I-].[Na+]
product | 5-phenyl-3-{1-[(3-{[2-(trifluoromethyl)phenyl]oxy}propyl)sulfonyl]-4-piperidinyl}-1H-indole-7-carboxamide | 22.9 mg, 50% | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCOC1=C(C=CC=C1)C(F)(F)F | C30H30F3N3O4S
